US04000143
Reduction of 2'-(2-pyridylmethyl)-p-anisanilide (4.65 g., 0.0146 mole) according to the procedure of Walker, J. Org. Chem., 27, 2966 (1962), in 150 ml. of acetic acid with 2.35 g. of 10% palladium on carbon catalyst affords 2'-(2-piperidylmethyl-p-anisanilide, m.p. 108° -109° C. (corr.), from benzene-hexane.

reactant | 2'-(2-pyridylmethyl)-p-anisanilide | 0.0146 mole, 4.65 g | N1=C(C=CC=C1)CC1=C(NC(C2=CC=C(C=C2)OC)=O)C=CC=C1 | C20H18N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | [Pd] | Pd
product | 2-piperidylmethyl-p-anisanilide | N1C(CCCC1)CC1=C(C(=O)NC2=CC=CC=C2)C=CC(=C1)OC | C20H24N2O2
